US03939166
4-Chloro-7-nitro-5-cyano-2-difluoromethylbenzimidazole is reacted with the sodium salt of cyclopentanethiol to obtain 4-cyclopentylthio-7-nitro-5-cyano-2-difluoromethylbenzimidazole, m.w., 338.3.

reactant | 4-Chloro-7-nitro-5-cyano-2-difluoromethylbenzimidazole | ClC1=C(C=C(C=2N=C(NC21)C(F)F)[N+](=O)[O-])C#N | C9H3ClF2N4O2
reactant | sodium | [Na] | Na
reactant | cyclopentanethiol | C1(CCCC1)S | C5H10S
product | 4-cyclopentylthio-7-nitro-5-cyano-2-difluoromethylbenzimidazole | C1(CCCC1)SC1=C(C=C(C=2N=C(NC21)C(F)F)[N+](=O)[O-])C#N | C14H12F2N4O2S
